US03947470
5-Chloro-3-[4-(2-diethylaminoethoxy)benzoyl]-2-phenylbenzofuran
Acylation of 5-chloro-2-phenylbenzofuran with 4-(2-diethylaminoethoxy)benzoyl chloride hydrochloride as described in the procedure of Example 6 gives the title compound which is converted to the corresponding hydrochloride salt as described in the procedure of Example 1, m.p. 197°-199° (ethyl acetate).

reactant | 5-chloro-2-phenylbenzofuran | ClC=1C=CC2=C(C=C(O2)C2=CC=CC=C2)C1 | C14H9ClO
reactant | 4-(2-diethylaminoethoxy)benzoyl chloride hydrochloride | Cl.C(C)N(CCOC1=CC=C(C(=O)Cl)C=C1)CC
product | 5-Chloro-3-[4-(2-diethylaminoethoxy)benzoyl]-2-phenylbenzofuran | ClC=1C=CC2=C(C(=C(O2)C2=CC=CC=C2)C(C2=CC=C(C=C2)OCCN(CC)CC)=O)C1 | C27H26ClNO3
